US05064819
A solution of 38.3 g of ethyl diethoxymethyl(cyclohexylmethyl)phosphinate in 30 ml of concentrated aqueous hydrochloric acid is treated with 30 ml of water and the mixture is heated to reflux for 5 hours. After cooling to room temperature, the mixture is washed with ether/hexane (1:1). A three-phase system is obtained. The lower phase is removed and the water removed in vacuo to give a white crystalline solid. The middle phase is an oil which crystallises on standing. These two are combined to give cyclohexylmethylphosphinic acid which is used without further purification.

reactant | ethyl diethoxymethyl(cyclohexylmethyl)phosphinate | 38.3 g | C(C)OC(OCC)P(OCC)(=O)CC1CCCCC1 | C14H29O4P
reactant | water | 30 ml | O | H2O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | cyclohexylmethylphosphinic acid | C1(CCCCC1)CP(O)=O | C7H15O2P
